US05959107
1-Ethyl-5-(5-isoquinolylsulfanyl)-2-methyl-6-nitro-1H-benzo[d]imidazole 300 mg (0.8 mmol) was dissolved in concentrated sulfuric acid 3 ml, Beckmann's reagent (K2Cr2O7 1 g, H2SO4 1 ml, H2O 9 ml) 6 ml was added dropwise, and the mixture was stirred overnight at room temperature. The reaction mixture was neutralized with 4N sodium hydroxide and extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure, and 1-ethyl-5-(5-isoquinolylsulfonyl)-2-methyl-6-nitro-1H-benzo[d]imidazole 70 mg (20.8%) was obtained.

reactant | 1-Ethyl-5-(5-isoquinolylsulfanyl)-2-methyl-6-nitro-1H-benzo[d]imidazole | 0.8 mmol, 300 mg | C(C)N1C(=NC2=C1C=C(C(=C2)SC2=C1C=CN=CC1=CC=C2)[N+](=O)[O-])C | C19H16N4O2S
reactant | H2O | 9 ml | O | H2O
reactant | sodium hydroxide | 4N | [OH-].[Na+]
solvent | sulfuric acid | 3 ml | S(O)(O)(=O)=O | H2O4S
solvent | H2SO4 | 1 ml | OS(=O)(=O)O | H2O4S
product | 1-ethyl-5-(5-isoquinolylsulfonyl)-2-methyl-6-nitro-1H-benzo[d]imidazole | 70 mg, 20.8% | C(C)N1C(=NC2=C1C=C(C(=C2)S(=O)(=O)C2=C1C=CN=CC1=CC=C2)[N+](=O)[O-])C | C19H16N4O4S
